US06605726B1
(2-Methyl thiazol-4-yl)-methyl-tri-n-butyl-phosphonium chloride
Tri-n-butylphosphane (38 ml, 0.156 mol) was added to a solution of 4-chloromethyl-2-methylthiazole (23 g, 0.156 mol) in anhydrous benzene (200 ml) under argon, and the solution was heated to boiling for 8 hours. Then, it was concentrated by evaporation in a vacuum, the residue was dried for 30 more minutes at 0.01 Torr, and the phosphonium salt was brought to crystallization by trituration with dry diethyl ether. 53 g (97%) of the title compound was obtained as colorless, hygroscopic crystals.

reactant | Tri-n-butylphosphane | 0.156 mol, 38 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 4-chloromethyl-2-methylthiazole | 0.156 mol, 23 g | ClCC=1N=C(SC1)C | C5H6ClNS
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | (2-Methyl thiazol-4-yl)-methyl-tri-n-butyl-phosphonium chloride | 53 g, 97% | [Cl-].CC=1SC=C(N1)C(CCC)[P+](CCCC)(CCCC)C | InChI=1S/C17H33NPS.ClH/c1-6-9-12-19(5,13-10-7-2)17(11-8-3)16-14-20-15(4)18-16;/h14,17H,6-13H2,1-5H3;1H/q+1;/p-1
